US07320994B2
{2-[(2-chloro-phenyl)-hydroxy-methyl]-phenyl}-carbamic acid tert-butyl ester
Add TMEDA (8.3 mL, 55.0 mmol) to a solution of phenyl-carbamic acid tert-butyl ester (4.83 g, 25.0 mmol) in THF (50 mL) at −40° C. in a flame dried flask. After 5 min., add s-BuLi (43 mL, 55.0 mmol, 1.3 M in cyclohexane) dropwise over 10 min. Allow solution to warm to RT. After 30 min., add saturated aqueous NH4Cl solution (approx. 15 mL) and stir for 30 min. Concentrate, partition between 20% i-PrOH/CHCl3 and saturated aqueous NaHCO3 solution and separate. Wash organic layer with brine, dry over MgSO4, and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-20% ethyl acetate/hexanes to afford the title compound: TLC (10% ethyl acetate/hexanes) Rf=0.20.

reactant | TMEDA | 55.0 mmol, 8.3 mL | CN(C)CCN(C)C | C6H16N2
reactant | phenyl-carbamic acid tert-butyl ester | 25.0 mmol, 4.83 g | C(C)(C)(C)OC(NC1=CC=CC=C1)=O | C11H15NO2
reactant | s-BuLi | 55.0 mmol, 1.3 M, 43 mL | [Li]C(C)CC
reactant | NH4Cl | approx. 15 mL | [NH4+].[Cl-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | {2-[(2-chloro-phenyl)-hydroxy-methyl]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)C(O)C1=C(C=CC=C1)Cl)=O | C18H20ClNO3
